US08865712B2
g) 5-(6-Bromo-pyridin-2-yl)-5-methyl-morpholine-3-thione
A mixture of 5-(6-bromo-pyridin-2-yl)-5-methyl-morpholin-3-one (4.65 g, 17.15 mmol) and P2S5 (4.57 g, 20.58 mmol) in pyridine (60 ml) was stirred at 80° C. under N2 for 6 h. The reaction mixture was cooled to rt and diluted with 0.5N aq. HCl and EtOAc. The phases were separated and the aq. phase was twice extracted with EtOAc. The combined org. phases were washed with brine, dried over Na2SO4, filtered and concentrated. The title compound was obtained as a pale yellow solid after flash chromatography on silica gel (cyclohexane/EtOAc 100:0 to 75:25). HPLC RtH4=0.89 min; ESIMS: 287, 289 [(M+H)+]; 1H NMR (400 MHz, DMSO-d6): δ 11.15 (s, 1H), 7.86-7.82 (m, 1H), 7.61 (dd, 1H), 7.39 (dd, 1H), 4.44-4.34 (d, 2H), 4.13 (d, 1H), 3.74 (d, 1H), 1.52 (s, 3H).

reactant | 5-(6-bromo-pyridin-2-yl)-5-methyl-morpholin-3-one | 17.15 mmol, 4.65 g | BrC1=CC=CC(=N1)C1(COCC(N1)=O)C | C10H11BrN2O2
reactant | P2S5 | 20.58 mmol, 4.57 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
solvent | HCl | 0.5N | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(6-Bromo-pyridin-2-yl)-5-methyl-morpholine-3-thione | BrC1=CC=CC(=N1)C1(COCC(N1)=S)C | C10H11BrN2OS
